US05273986
A slurry of 1.8 g of [(2-cyclobutyl-4-thiazolyl)methyl] triphenylphosphonium chloride, in 80 ml of tetrahydrofuran was sealed under a positive argon atmosphere and the mixture cooled with an ice bath. Sodium hydride (0.2 g; 50% oil dispersion) was added and stirring and cooling continued for 30 min afterwhich 0.6 g of 3-nitrobenzaldehyde was added. The cooling bath was removed and the mixture was stirred at room temperature for 1 hr. The mixture was then filtered, condensed in vacuo and the residual materials taken up in 100 ml of methylene chloride. This solution was then washed with water, dried (MgSO4) and condensed in vacuo to yield 0.8 g of (E)-2-cyclobutyl-4-[2-(3-nitrophenyl)ethenyl]thiazole; m.p. 112°-115° C.

reactant | [(2-cyclobutyl-4-thiazolyl)methyl] triphenylphosphonium chloride | 1.8 g | [Cl-].C1(CCC1)C=1SC=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Sodium hydride | 0.2 g | [H-].[Na+]
reactant | 3-nitrobenzaldehyde | 0.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-2-cyclobutyl-4-[2-(3-nitrophenyl)ethenyl]thiazole | 0.8 g | C1(CCC1)C=1SC=C(N1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C15H14N2O2S
